US08017773B2
Step 3: trans-4-Cyano-N-[4-(4-cyclopropylmethyl-piperazine-1-carbonyl)-cyclohexyl]-benzenesulfonamide
A mixture of 0.1 g (0.26 mmol) 4-cyano-N-[4-(piperazine-1-carbonyl)-cyclohexyl]-benzenesulfonamide, 0.022 g (0.31 mmol) cyclopropanecarboxaldehyde (commercially available), 0.159 g (2.65 mmol) acetic acid and 0.073 g (0.34 mmol) sodium triacetoxyborohydride in 1 mL THF was stirred at 80° C. for 1 h. The mixture was subjected to purification on preparative HPLC eluting with a gradient formed from acetonitrile and water. Evaporation of the product fractions yielded 3 mg (2.6%) of the title compound. MS (m/e): 431.4 (MH+).

reactant | 4-cyano-N-[4-(piperazine-1-carbonyl)-cyclohexyl]-benzenesulfonamide | 0.26 mmol, 0.1 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)NC1CCC(CC1)C(=O)N1CCNCC1 | C18H24N4O3S
reactant | cyclopropanecarboxaldehyde | 0.31 mmol, 0.022 g | C1(CC1)C=O | C4H6O
reactant | acetic acid | 2.65 mmol, 0.159 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.34 mmol, 0.073 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | trans-4-Cyano-N-[4-(4-cyclopropylmethyl-piperazine-1-carbonyl)-cyclohexyl]-benzenesulfonamide | 3 mg, 2.6% | C(#N)C1=CC=C(C=C1)S(=O)(=O)N[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)CC1CC1 | C22H30N4O3S
